US07612075B2
C. 7-Methyl-1-H-cinnolin-4-one.
A solution of 2-amino-4-methylphenylethanone (5.0 g, 33.6 mmol) in concentrated HCl (100 mL) is treated, in portions, with a solution of sodium nitrite (5.7 g, 82.6 mmol) in water (˜10 mL). The resulting solution is stirred at 60° C. for 2 hr, cooled to ambient temperature and diluted with a saturated solution of sodium acetate (˜200 mL). Solid sodium acetate is added portionwise until the solution tested basic to pH paper. Upon stirring, the title compound precipitated as a white solid which is collected and air dried (2.3 g, 14.3 mmol). MS m/z: [M+H]+=161; 1H NMR (CDCl3, 300 MHz) δ8.1 (d, 1H), 7.85 (s, 1H), 7.45 (s, 1H) 7.3 (d, 1H), 2.55 (s, 3H).

reactant | 2-amino-4-methylphenylethanone | 33.6 mmol, 5.0 g | NC1=C(C=CC(=C1)C)C(C)=O | C9H11NO
reactant | sodium nitrite | 82.6 mmol, 5.7 g | N(=O)[O-].[Na+]
solvent | HCl | 100 mL | Cl | ClH
solvent | water | ˜10 mL | O | H2O
solvent | sodium acetate | ˜200 mL | C(C)(=O)[O-].[Na+]
product | 7-Methyl-1-H-cinnolin-4-one | CC1=CC=C2C(C=NNC2=C1)=O | C9H8N2O
